US06372759B1
A) N-(1-Boc-6-indazolyl)-3-methyl-2-nitrobenzamide
To a stirring solution of 3-methyl-2-nitrobenzoic acid (1.8 g, 10.1 mmol) and 1-Boc-6-amino-indazole (2.37 g, 10.1 mmol) in DMF (20 mL) was added EDC (3.17 g, 15.2 mmol). After stirring for 16 h, the solvent was removed in vacuo and the residue was partitioned between ethyl acetate and 1 M citric acid. The layers were separated and the organic phase was washed again with 1 M citric acid, once with water, twice with satd aq NaHCO3, and once with brine. The organic phase was then dried over MgSO4, filtered and concentrated in vacuo. The residue was dissolved in a minimal volume of chloroform and chromatographed over silica gel, eluting with a gradient of 40% ethyl acetate/hexanes through 70% ethyl acetate/hexanes. The product containing fractions were combined and concentrated in vacuo to give 2.34 g (58%) of off-white solid.

reactant | 3-methyl-2-nitrobenzoic acid | 10.1 mmol, 1.8 g | CC=1C(=C(C(=O)O)C=CC1)[N+](=O)[O-] | C8H7NO4
reactant | 1-Boc-6-amino-indazole | 10.1 mmol, 2.37 g | C(=O)(OC(C)(C)C)N1N=CC2=CC=C(C=C12)N | C12H15N3O2
reactant | EDC | 15.2 mmol, 3.17 g
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-(1-Boc-6-indazolyl)-3-methyl-2-nitrobenzamide | 2.34 g, 58% | C(=O)(OC(C)(C)C)N1N=CC2=CC=C(C=C12)NC(C1=C(C(=CC=C1)C)[N+](=O)[O-])=O | C20H20N4O5
